US05306830
8-Bromo-3-(di-n-propylamino)chromane
8-Bromo-3-chromanol (80% according to GC, 0.8×0.69 g, 0.8×3.0=2.4 mmol) was dissolved in dry benzene and di-n-propylamine (2 ml) and p-toluenesulfonic acid (60 mg) was added. The reaction mixture was refluxed under N2 and water separation in a Dean-Stark apparatus. The solvents were removed under reduced pressure and the residue was dissolved in MeOH (50 ml) and NaBH3CN (2.0 g) was added and the mixture was stirred overnight. Water (50 ml) and 15% NaOH (5 ml) was added and the product was extracted to CH2Cl2. The organic layer was washed with water, dried (Na2SO4), filtered and the solvents were removed under reduced pressure, leaving 700 mg of the raw product, which was chromatographed (SiO2, 100 g) using petroleum ether:ether (9:1) as the eluant. The fractions containing pure product were pooled and the solvent was evaporated. The residual oil was converted into the hydrochloride with HCl-saturated EtOH. Crystals (248 mg) melting at 135° C. were obtained from EtOAc/ether. GC/MS showed M+ /M+2 at m/e=311.05(7.7%)/313.05(8.7%) and the base peak pair at m/e=281.95(98%)/283.95(100%).

reactant | 8-Bromo-3-chromanol | 2.4 mmol, 0.69 g | BrC=1C=CC=C2CC(COC12)O | C9H9BrO2
reactant | di-n-propylamine | 2 ml | C(CC)NCCC | C6H15N
reactant | p-toluenesulfonic acid | 60 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 8-Bromo-3-(di-n-propylamino)chromane | 248 mg | BrC=1C=CC=C2CC(COC12)N(CCC)CCC | C15H22BrNO
